US05371093
α-[1-(2-Phenylethyl)-4-piperidinyl]-α-phenyl-2-thiophenemethanol
Dissolve phenyl[1-(2-phenylethyl)-4-piperidinyl]methanone (4.45 g, 15.16 mmol) in anhydrous tetrahydrofuran (40 mL), place under an argon atmosphere and cool to -78° C. Add, by dropwise addition, 2-lithiothiophene (15.16 mL of a 1M solution in tetrahydrofuran, 15.16 mmol) and stir at -78° C. for 1.5 hours. Quench with saturated ammonium chloride, separate the organic phase and extract the aqueous phase with ethyl ether. Combine the organic phases, dry (MgSO4) and evaporate the solvent in vacuo. Purify by chromatography (50% ethyl acetate/hexane) and recrystallize (cyclohexane) to give the title compound as a white crystalline solid; mp 143°-144° C.

reactant | phenyl[1-(2-phenylethyl)-4-piperidinyl]methanone | 15.16 mmol, 4.45 g | C1(=CC=CC=C1)C(=O)C1CCN(CC1)CCC1=CC=CC=C1 | C20H23NO
reactant | 2-lithiothiophene | [Li]C=1SC=CC1
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | α-[1-(2-Phenylethyl)-4-piperidinyl]-α-phenyl-2-thiophenemethanol | C1(=CC=CC=C1)CCN1CCC(CC1)C(O)(C=1SC=CC1)C1=CC=CC=C1 | C24H27NOS
